US06271237B1
To a solution of 1-(2-(aminomethyl)phenyl)-5-furyl-3-trifluoromethylpyrazole (1.4 g, 4.27 mmol) in THF (10 mL) was added a solution of (Boc)2O (1.4 g, 6.4 mmol) in THF (10 mL), and the resulting mixture was stirred at room temperature for 1 hour. The mixture was diluted with EtOAc (100 mL), washed with water and brine, dried over Na2SO4, and concentrated to provide crude 1-(2-(N-Boc-aminomethyl)phenyl)-5-furyl-3-trifluoromethylpyrazole. 1H NMR (CDCl3) δ7.60-7.55 (m, 2H), 7.42 (d, J=6.2 Hz, 1H), 7 40 (s, 1H), 7.32 (d, J=7.7 Hz, 1H), 6.95 (s, 1H), 6.28 (dd, J=1.8 Hz, J=3.3 Hz, 1H), 5.65 (d, J=3.3 Hz, 1H), 4.01 (d, J=6.8 Hz, 2H), 3.40 (s, 2H), 1.41 (s, 9H); 19F NMR (CDCl3): δ−62.76.

reactant | 1-(2-(aminomethyl)phenyl)-5-furyl-3-trifluoromethylpyrazole | 4.27 mmol, 1.4 g | NCC1=C(C=CC=C1)N1N=C(C=C1C=1OC=CC1)C(F)(F)F | C15H12F3N3O
reactant | (Boc)2O | 6.4 mmol, 1.4 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 1-(2-(N-Boc-aminomethyl)phenyl)-5-furyl-3-trifluoromethylpyrazole | C(=O)(OC(C)(C)C)NCC1=C(C=CC=C1)N1N=C(C=C1C=1OC=CC1)C(F)(F)F | C20H20F3N3O3
